US08212045B2
To 75 mL of EtOAc was added sodium isothiocyanate (0.579 g, 7.15 mmol), pyridine (0.874 ml, 10.7 mmol) and (R)-N-(methylsulfonyloxy)-1,4-dioxaspiro[4.5]decane-2-carbimidoyl chloride (2.13 g, 7.15 mmol) and the reaction was heated to 50° C. for 30 minutes. The reaction mixture was added to 3-(1-ethyl-1H-pyrazol-5-yloxy)-5-(pyridin-2-ylthio)pyridin-2-amine (1.12 g, 3.57 mmol) and the reaction was stirred for 65 hours at 75° C. The reaction was cooled and diluted with 50 ml EtOAc and 75 ml 1N NaOH. The aqueous layer was extracted with EtOAc. The organic layer was dried over Na2SO4, filtered and concentrated. The residue was purified over silica gel (75% EtOAc/Hexanes) to afford (S)-N-(3-(1-ethyl-1H-pyrazol-5-yloxy)-5-(pyridin-2-ylthio)pyridin-2-yl)-3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-amine (1.24 g, 2.31 mmol, 64.5% yield) as a tan solid.

reactant | sodium isothiocyanate | 7.15 mmol, 0.579 g | [N-]=C=S.[Na+]
reactant | pyridine | 10.7 mmol, 0.874 ml | N1=CC=CC=C1 | C5H5N
reactant | (R)-N-(methylsulfonyloxy)-1,4-dioxaspiro[4.5]decane-2-carbimidoyl chloride | 7.15 mmol, 2.13 g | CS(=O)(=O)ON=C([C@@H]1OC2(OC1)CCCCC2)Cl | C10H16ClNO5S
reactant | 3-(1-ethyl-1H-pyrazol-5-yloxy)-5-(pyridin-2-ylthio)pyridin-2-amine | 3.57 mmol, 1.12 g | C(C)N1N=CC=C1OC=1C(=NC=C(C1)SC1=NC=CC=C1)N | C15H15N5OS
solvent | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
solvent | NaOH | 1N, 75 ml | [OH-].[Na+]
solvent | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
product | (S)-N-(3-(1-ethyl-1H-pyrazol-5-yloxy)-5-(pyridin-2-ylthio)pyridin-2-yl)-3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-amine | 2.31 mmol, 1.24 g, 64.5% yield | C(C)N1N=CC=C1OC=1C(=NC=C(C1)SC1=NC=CC=C1)NC1=NC(=NS1)[C@@H]1OC2(OC1)CCCCC2 | C25H27N7O3S2
